US05405997
A solution of 2-methylcyclohexanone (11.1 g, 0.099 mol) in chloroform (15 ml) was added during 20 minutes, under nitrogen, to a stirred suspension of m-chloroperbenzoic acid (24.6 g, 0.143 mol) in chloroform (250 ml). After 3 hours, 40 minutes, the mixture was poured into aqueous sodium bicarbonate and extracted with methylene chloride. The extract was washed with brine, dried (MgSO4) and concentrated. The residue was distilled from a small amount of K2CO3 to give 9.58 g, bp 78°-79° C. (2.5-3 mm Hg) of 6-hydroxyheptanoic acid, ε-lactone.

reactant | 2-methylcyclohexanone | 0.099 mol, 11.1 g | CC1C(CCCC1)=O | C7H12O
reactant | m-chloroperbenzoic acid | 0.143 mol, 24.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-hydroxyheptanoic acid | 9.58 g | OC(CCCCC(=O)O)C | C7H14O3
